US07652015B2
4-(5-Amino-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester
Stir a mixture of 4-(5-Nitro-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (2.7 g, 8.35 mmol) and 10% palladium on carbon (0.5 g) in ethanol (100 mL) at room temperature under hydrogen for 4 hours. Filter to remove palladium catalyst. Concentrate the filtrate and subject the resultant colorless oil to silica gel chromatography eluting with hexanes and ethyl acetate to give the title compound as a white solid (2.11 g, 86% (ES+(m/z) 194.2 [M+H—BOC]).

reactant | 4-(5-Nitro-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 8.35 mmol, 2.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C15H21N3O5
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-(5-Amino-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 2.11 g, 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=C1)N | C15H23N3O3
